### PR TITLE
[Merged by Bors] - feat(Probability/Invariance):Reversibility/DetailedBalance

### PR DESCRIPTION
**Pull request by or4nge19**
Add reversibility (detailed balance) for Markov kernels and show it implies invariance

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/Invariance.lean [hunk 1]
```diff
@@ -76,6 +76,30 @@ theorem Invariant.comp (hκ : Invariant κ μ) (hη : Invariant η μ) :
...
+  have h' := (h_rev hs MeasurableSet.univ).symm
+  have h'' : ∫⁻ x, κ x s ∂π = ∫⁻ x in s, κ x Set.univ ∂π := by
+    simpa [Measure.restrict_univ] using h'
+  have hConst : ∫⁻ x in s, κ x Set.univ ∂π = π s := by
+    classical
+    simp [measure_univ]
+  have hπ : ∫⁻ x, κ x s ∂π = π s := h''.trans hConst
+  calc
+    (π.bind κ) s = ∫⁻ x, κ x s ∂π := Measure.bind_apply hs (Kernel.aemeasurable _)
+    _ = π s := hπ
```
Comment (DavidLedvinka) [inline Mathlib/Probability/Kernel/Invariance.lean]:
```suggestion
  ext s hs
  calc 
    (κ ∘ₘ π) s = ∫⁻ x, κ x s ∂π := by rw [Measure.bind_apply hs (Kernel.aemeasurable _)]
             _ = ∫⁻ x in s, κ x Set.univ ∂π := by simpa [restrict_univ] using (h_rev hs .univ).symm
             _ = π s := by simp
```

**Review by DavidLedvinka — COMMENTED** [review]
Thanks!

**Comment by or4nge19** [comment]
Thank you very much!

File: Mathlib/Probability/Kernel/Invariance.lean [hunk 2]
```diff
@@ -76,6 +76,24 @@ theorem Invariant.comp (hκ : Invariant κ μ) (hη : Invariant η μ) :
...
+/-! ### Reversibility of kernels -/
+
+/-- Reversibility (detailed balance) of a Markov kernel `κ` w.r.t. a (σ-finite) measure `π`:
+for all measurable sets `A B`, the mass flowing from `A` to `B` equals that from `B` to `A`. -/
+def IsReversible (κ : Kernel α α) (π : Measure α) : Prop :=
+  ∀ ⦃A B⦄, MeasurableSet A → MeasurableSet B →
+    ∫⁻ x in A, κ x B ∂π = ∫⁻ x in B, κ x A ∂π
+
+/-- A reversible Markov kernel leaves the measure `π` invariant. -/
+theorem Invariant.of_IsReversible
```
Comment (DavidLedvinka) [inline Mathlib/Probability/Kernel/Invariance.lean]: I think looking at lemmas in the library that deduce one property from another the name should be 

```suggestion
theorem IsReversible.invariant
```

This will let you use dot notation.

File: Mathlib/Probability/Kernel/Invariance.lean [hunk 3]
```diff
@@ -76,6 +76,24 @@ theorem Invariant.comp (hκ : Invariant κ μ) (hη : Invariant η μ) :
   · exact Subsingleton.elim _ _
   · rw [Invariant, ← Measure.comp_assoc, hη, hκ]
 
+/-! ### Reversibility of kernels -/
+
+/-- Reversibility (detailed balance) of a Markov kernel `κ` w.r.t. a (σ-finite) measure `π`:
```
Comment (DavidLedvinka) [inline Mathlib/Probability/Kernel/Invariance.lean]:
```suggestion
/-- Reversibility (detailed balance) of a Markov kernel `κ` w.r.t. a measure `π`:
```
You don't actually assume σ-finite.

Comment (or4nge19) [reply Mathlib/Probability/Kernel/Invariance.lean]: Yes, thanks. Initially I was assuming it but haven't updated the doc yet

**Comment by DavidLedvinka** [comment]
I am not sure when to use strict-implicit vs regular implicit binders so someone else should confirm this is the right choice. Otherwise LGTM.

**Review by DavidLedvinka — APPROVED** [review]

**Comment by or4nge19** [comment]
> I am not sure when to use strict-implicit vs regular implicit binders so someone else should confirm this is the right choice. Otherwise LGTM.

Ok, thank you very much for your review and your time. I guess we wait some time if another reviewer follows this up before pinging anyone :)

**Comment by or4nge19** [comment]
Would a pointwise version be a useful addition to this file?

`
lemma Kernel.isReversible_of_pointwise_fintype
    (hPoint :
      ∀ ⦃x y⦄, π {x} * κ x {y} = π {y} * κ y {x})
    : ProbabilityTheory.Kernel.IsReversible κ π := by ...
`
    
   I have used it for this https://github.com/HEPLean/PhysLean/blob/272eb00b50de3a4db986abdc009aefdec92fec48/PhysLean/StatisticalMechanics/SpinGlasses/HopfieldNetwork/DetailedBalanceBM.lean:
   
   `
/-- Reversibility of the random–scan Gibbs kernel (uniform site choice) w.r.t.
the Boltzmann measure. -/
theorem randomScanKernel_reversible :
    ProbabilityTheory.Kernel.IsReversible
      (randomScanKernel (NN:=NN) spec p T)
      ((HopfieldBoltzmann.CEparams (NN:=NN) (spec:=spec) p).μProd T) := by
  classical
  have hSite :
      ∀ u : U,
        ProbabilityTheory.Kernel.IsReversible
          (singleSiteKernel (NN:=NN) spec p T u)
          ((HopfieldBoltzmann.CEparams (NN:=NN) (spec:=spec) p).μProd T) := by
    intro u
    simpa [πBoltz,
           HopfieldBoltzmann.CEparams] using
      (singleSiteKernel_reversible (NN:=NN) (spec:=spec) (p:=p) (T:=T) u)
  exact
    randomScanKernel_reversible_of_sites
      (NN:=NN) (spec:=spec) (p:=p) (T:=T)
      ((HopfieldBoltzmann.CEparams (NN:=NN) (spec:=spec) p).μProd T)
      hSite
`

**Comment by DavidLedvinka** [comment]
I think we refrain from specializing lemmas to the finite (or discrete) case at the moment unless it is actually specific to this case. I believe there have been talks on zulip in the past about providing a top level API for these cases for users of mathlib that just want to work in these cases and don't want to deal with measure theory. However since probability is still relatively early stages it probably makes sense to wait until the design decisions for probability are more stable since a) this discourages people from proving things for the finite/discrete case only when it applies more generally, b) it will create more work for refactoring if things change. Perhaps others would disagree though, you could ask on Zulip. 

The more general version of your statement would be a version in terms of densities (when they exist). This definitely belongs in Mathlib. Feel free to add it to this PR or a future one.

**Comment by or4nge19** [comment]
I fully agree, no need to ask on zulip. Thanks again

**Comment by sgouezel** [comment]
bors r+
Thanks!
